US04409228
A mixture of 12.5 g of 4-acetamidopiperidine, 15 g of potassium carbonate, 10 g of 2-chloropyridine in 100 ml of dimethylsulfoxide, is heated with stirring for 50 hours to 130° C., then it is cooled, poured into water and the suspension thus obtained is extracted with diethyl ether. The aqueous phase is extracted with methylene chloride, the organic phase is washed with water, it is dried over anhydrous sodium sulfate and evaporated to dryness. Thus, 4-acetamido-1-(2-pyridyl) piperidine is obtained which, after crystallisation in isopropanol and recrystallisation in ethyl acetate, melts at 165° to 168° C. Yield: 4.7 g (24.5% of the theoretical).

reactant | 4-acetamidopiperidine | 12.5 g | C(C)(=O)NC1CCNCC1 | C7H14N2O
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloropyridine | 10 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 4-acetamido-1-(2-pyridyl) piperidine | C(C)(=O)NC1CCN(CC1)C1=NC=CC=C1 | C12H17N3O
